US07947692B2
A magnetically stirred mixture of triphosgene (365 mg, 1.23 mmol) in tetrahydrofuran (20 mL) under a nitrogen atmosphere was treated slowly with pyridine (485 mg, 6.15 mmol) via syringe. The resulting white suspension was then treated with a solution of 1-(3-Trifluoromethyl-benzyl) piperazine (1.0 g, 4.10 mmol) in tetrahydrofuran (10 mL) via addition funnel over 10 min. The reaction mixture was stirred at 25° C. overnight. At this time, the reaction was filtered to remove solids. The filtrate was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60:40 hexanes/ethyl acetate afforded 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carbonyl chloride (350 mg, 28%) as a clear oil. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | triphosgene | 1.23 mmol, 365 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | pyridine | 6.15 mmol, 485 mg | N1=CC=CC=C1 | C5H5N
reactant | 1-(3-Trifluoromethyl-benzyl) piperazine | 4.10 mmol, 1.0 g | FC(C=1C=C(CN2CCNCC2)C=CC1)(F)F | C12H15F3N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(3-Trifluoromethyl-benzyl)-piperazine-1-carbonyl chloride | 350 mg, 28% | FC(C=1C=C(CN2CCN(CC2)C(=O)Cl)C=CC1)(F)F | C13H14ClF3N2O
